US06245804B1
5-[3-(1-Phenyl-cyclopentyl)-2-oxo-propionylamino]-phthalide
was obtained analogously to the process that is described for 4-bromo-5-(4-methyl-2-oxo-4-phenyl-valeroylamino)-phthalide from 5-aminophthalide and 3-(1-phenyl-cyclopentyl)-2-oxo-propionic acid, melting point 140-144° C.

reactant | 4-bromo-5-(4-methyl-2-oxo-4-phenyl-valeroylamino)-phthalide | BrC1=C2COC(=O)C2=CC=C1NC(C(CC(C)(C1=CC=CC=C1)C)=O)=O | C20H18BrNO4
reactant | 5-aminophthalide | NC=1C=C2COC(=O)C2=CC1 | C8H7NO2
reactant | 3-(1-phenyl-cyclopentyl)-2-oxo-propionic acid | C1(=CC=CC=C1)C1(CCCC1)CC(C(=O)O)=O | C14H16O3
product | 5-[3-(1-Phenyl-cyclopentyl)-2-oxo-propionylamino]-phthalide | C1(=CC=CC=C1)C1(CCCC1)CC(C(=O)NC=1C=C2COC(=O)C2=CC1)=O | C22H21NO4
